US05464865
To a stirred solution of triethyl 2-phosphonopropionate (4.2 g) in THF (25 ml) under nitrogen is added sodium hydride (0.69 g of 60% dispersion in oil). After 30 minutes, 5-(2,6,6-trimethyl-1-cyclohexen-1-yl)pentanal (3.09 g) is added, and the mixture is stirred at reflux for16 hr. The reaction is cooled, poured into aqueous sodium bicarbonate, and extracted with ether. The extracts are concentrated and chromatographed with 30% dichloromethane in hexane to provide (2E)-2-methyl-7-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2-heptenoic add ethyl ester as a colorless oil (2.4 g). This material (2.09 g) is reacted with diisobutylaluminum hydride (10 ml of 1.5M toluene solution) in toluene (20 ml) at -20° , stirred at 0° for 3 hr, then stirred for 16 hr with 1.0N sodium hydroxide solution. The mixture is extracted with ether, and the organic phase is concentrated and chromatographed with dichloromethane to provide 1.6 g of (2E)-2-methyl-7-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2-heptenol as a colorless oil.

reactant | triethyl 2-phosphonopropionate | 4.2 g | CCOC(=O)C(C)P(=O)(OCC)OCC | C9H19O5P
reactant | sodium hydride | 0.69 g | [H-].[Na+]
reactant | 5-(2,6,6-trimethyl-1-cyclohexen-1-yl)pentanal | 3.09 g | CC1=C(C(CCC1)(C)C)CCCCC=O | C14H24O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | diisobutylaluminum hydride | 1.5M, 10 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium hydroxide | 1.0N | [OH-].[Na+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | (2E)-2-methyl-7-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2-heptenol | 1.6 g | C/C(/CO)=C\CCCCC1=C(CCCC1(C)C)C | C17H30O
